US07217724B2
To a solution of the obtained ethyl 2-((3-((2R)-2-((tert-butoxy-carbonyl) ((2R)-2-pyridin-3-yl-2-((triethylsilyl)oxy)ethyl)amino)propyl)-1H-indol-7-yl)oxy)pentanoate in ethanol (0.2 ml) is added a solution of 4N-hydrogen chloride in dioxane (0.2 ml), and the mixture is stirred at room temperature for 19 hours. After the reaction is completed, water (0.2 ml) is added to the mixture, and the solvent is evaporated under reduced pressure. To a solution of the obtained residue in ethanol (0.35 ml) is added a 5N aqueous potassium hydroxide solution (0.09 ml), and the mixture is stirred at room temperature for 4 hours. After the reaction is completed, the mixture is neutralized with 1N hydrochloric acid, and the solvent is evaporated under reduced pressure. The residue is purified by preparative high performance liquid chromatography (0.035% trifluoroacetic acid/acetonitrile-0.05% trifluoroacetic acid/water) to give 2-((3-((2R)-2-(((2R)-2-hydroxy-2-pyridin-3-ylethyl)-amino)propyl)-1H-indol-7-yl)oxy)pentanoic acid.2 trifluoroacetate (13.2 mg).

reactant | ethyl 2-((3-((2R)-2-((tert-butoxy-carbonyl) ((2R)-2-pyridin-3-yl-2-((triethylsilyl)oxy)ethyl)amino)propyl)-1H-indol-7-yl)oxy)pentanoate | C(C)(C)(C)OC(=O)N([C@@H](CC1=CNC2=C(C=CC=C12)OC(C(=O)OCC)CCC)C)C[C@H](O[Si](CC)(CC)CC)C=1C=NC=CC1 | C36H55N3O6Si
reactant | hydrogen chloride | Cl | ClH
reactant | water | 0.2 ml | O | H2O
solvent | ethanol | 0.2 ml | C(C)O | C2H6O
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 2-((3-((2R)-2-(((2R)-2-hydroxy-2-pyridin-3-ylethyl)-amino)propyl)-1H-indol-7-yl)oxy)pentanoic acid | O[C@@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)OC(C(=O)O)CCC)C)C=1C=NC=CC1 | C23H29N3O4
